US09034899B2
To an ice-cold solution of 4-(3,4-dichlorophenyl)-7-methoxy-1,2,3,4-tetrahydroisoquinoline (2.65 g, 8.6 mmol) and N,N-diisopropylethylamine (1.8 mL, 10.3 mmol) in dichloromethane (80 mL) was slowly added a solution of 2-nitrobenzene-1-sulfonyl chloride (2.1 g, 9.5 mmol) in dichloromethane (10 mL). The mixture was stirred for 2 hours and then quenched with water. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was purified by column chromatography (hexanes to ethyl acetate) to give 4-(3,4-dichlorophenyl)-7-methoxy-2-(2-nitrophenylsulfonyl)-1,2,3,4-tetrahydroisoquinoline (3.39 g, 80%) as a yellow solid: 1H NMR (CDCl3, 500 MHz) δ 7.80 (dd, J=8, 1.3 Hz, 1H), 7.67-7.63 (m, 1H), 7.58 (dd, J=7.9, 1.2 Hz, 1H), 7.54-7.50 (m, 1H), 7.15 (d, J=8.3 Hz, 1H), 7.02 (d, J=2.0 Hz, 1H), 6.87 (dd, J=8.3, 2 Hz, 1H), 6.81 (d, J=8.3 Hz, 1H), 6.75 (d, J=2.6 Hz, 1H), 6.73 (s, 1H), 4.77 (d, J=16.0 Hz, 1H), 4.56 (d, J=16.0 Hz, 1H), 4.18 (dd, J=4.9, 4.9 Hz, 1H), 3.82 (dd, J=13.2, 4.5 Hz, 1H), 3.81 (s, 3H), 3.63 (dd, J=13.1, 5.5 Hz, 1H).

reactant | 4-(3,4-dichlorophenyl)-7-methoxy-1,2,3,4-tetrahydroisoquinoline | 8.6 mmol, 2.65 g | ClC=1C=C(C=CC1Cl)C1CNCC2=CC(=CC=C12)OC | C16H15Cl2NO
reactant | N,N-diisopropylethylamine | 10.3 mmol, 1.8 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-nitrobenzene-1-sulfonyl chloride | 9.5 mmol, 2.1 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(3,4-dichlorophenyl)-7-methoxy-2-(2-nitrophenylsulfonyl)-1,2,3,4-tetrahydroisoquinoline | 3.39 g, 80% | ClC=1C=C(C=CC1Cl)C1CN(CC2=CC(=CC=C12)OC)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C22H18Cl2N2O5S
